US05849732
To a mixed solution comprising 8.6 g of 2,4-dimethoxyphenol and 80 ml of carbon disulfide (CS2) was added dropwise 2.86 ml of bromine at 10° to 15° C. After stirring the mixture at room temperature for one hour, water was added to the reaction mixture and the reaction mixture was extracted with diethyl ether. The extract was washed and dried, and the solvent was removed under reduced pressure. Hexane was added to the obtained residue and the precipitated crystals were collected by filtration to give 12.0 g of 3-bromo-4,6-dimethoxyphenol (yield: 92%, melting point: 78°-80° C.).

reactant | 2,4-dimethoxyphenol | 8.6 g | COC1=C(C=CC(=C1)OC)O | C8H10O3
reactant | carbon disulfide | 80 ml | C(=S)=S | CS2
reactant | bromine | 2.86 ml | BrBr | Br2
solvent | water | O | H2O
product | 3-bromo-4,6-dimethoxyphenol | 12.0 g, yield: 92% | BrC=1C=C(C(=CC1OC)OC)O | C8H9BrO3
